Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
unknown antibiotic
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx s/f ___, presents after having outpatient 
head MRI for finding of bleed. Pt reportedly has been confused 
since ___ with worsening gait and sundowning.sent in after 
PCP reported uncertain new bleeding in the brain since last MRI 
late ___. Per pt daughter, fluctuating mental status, no known 
trauma or falls, not anticoagulated.
In the ED, initial vital signs were: 98.8 79 163/96 16 100% RA
- Exam was notable for: GCS 15
neuro intact
- Labs were notable for: CBC WNL, Lytes WNL, Glucose 115, Coags 
WNL
U/A WNL
- Imaging: CT Head W/O Contrast notable for Right convexity 
subacute subdural hematoma with a hyperdense acute component. 
Left-sided chronic subdural hematoma versus a subdural hygroma.
- Consults: Neurosurgery was consulted and felt there was
no acute intervention required. Recommend holding aspirin. 
Follow up in 4 weeks in clinic with a head CT at that time.
Patient was placed in observation status for physical therapy 
and case management evaluation. Overnight, the patient became 
increasingly
agitated and non-directable. Per ED attd note, noted to be 
walking around with normal gait. A repeat CT scan of the head 
was obtained which showed no acute change. The patient was given 
Zyprexa and fell asleep.
Patient noted to become agitated, confused and speaking nonsense 
per ___ speaking interpreter. He had been noted 
to be trying to crawl out of bed, and because of this given IM 
Zyprexa with resulting somnolence able to have a repeat CT. 
Repeat CT 5 hours later with stable SDH. In ED pt became 
increasingly confused and appeared to be hallucinating again, 
attempted to crawl out of bed. PGiven second 5mg Zyprexa IM, 
with resulting somnolence and sent to the floor.
Vitals prior to transfer were: 98.5 79 137/98 16 98% RA
Upon arrival to the floor patient GCS 9 (eye 2, verbal 2, pain 
5). Unable to get ROS d/t mental status.

 
Past Medical History:
HTN,
___ disease,
dementia

 
Social History:
___
Family History:
Positive for DM
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
VITALS - 98.2 144/74 50 17 100% RA
GENERAL - somnolent on arrival
HEENT - normocephalic, atraumatic,
CARDIAC - bradycardic, regular, normal S1/S2, no murmurs rubs or 
gallops
PULMONARY - clear to auscultation bilaterally posteriorly
ABDOMEN - normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly
EXTREMITIES - warm, well-perfused, no cyanosis, clubbing or 
edema
SKIN - without rash, no SSTI no sacral decub ulceration
NEUROLOGIC - somnolent; wakes to sternal rub. Localizes pain, 
MAE to pain. Downgoing plantar reflexes b/l
PSYCHIATRIC - unable to assess

=======================
DISCHARGE PHYSICAL EXAM
=======================
VS: T 97.1F BP 125/82 mmHg P 63 RR 20 O2 100% RA
General: Elderly man, answering questions appropriately and 
following commands, in NAD.
HEENT: PERRL, anicteric sclerae.
Neck: Supple, no LAD, no JVD.
CV: RRR, no MRGs; normal S1/S2.
Pulm: CTA b/l. No wheezes, rhonchi or rales.
Abd: Soft, non-tender, non-distended. NABS.
Ext: Warm and well-perfused. 2+ DP pulses; no edema.
Neuro: Alertented to person, not place or time. Following 
commands and answering questions appropriately. CNs II-XII 
grossly intact. No focal neurologic deficits. 
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 08:45PM BLOOD WBC-6.4 RBC-4.90 Hgb-13.7 Hct-42.2 MCV-86 
MCH-28.0 MCHC-32.5 RDW-14.5 RDWSD-45.0 Plt ___
___ 08:45PM BLOOD Neuts-59.9 ___ Monos-6.0 Eos-0.8* 
Baso-0.8 Im ___ AbsNeut-3.82 AbsLymp-2.05 AbsMono-0.38 
AbsEos-0.05 AbsBaso-0.05
___ 08:45PM BLOOD Glucose-115* UreaN-18 Creat-1.0 Na-141 
K-4.1 Cl-106 HCO3-24 AnGap-15
___ 09:35AM BLOOD Calcium-9.3 Phos-3.4 Mg-2.2
___ 09:35AM BLOOD VitB12-536
___ 09:35AM BLOOD TSH-3.5
___ 06:25AM BLOOD HIV Ab-Negative
___ 05:29PM BLOOD Type-ART pO2-77* pCO2-33* pH-7.46* 
calTCO2-24 Base XS-0 Intubat-NOT INTUBA
___ 05:29PM BLOOD Lactate-1.5
___ 11:55PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:55PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

==============
DISCHARGE LABS
==============
___ 06:25AM BLOOD WBC-7.5 RBC-4.95 Hgb-13.7 Hct-43.2 MCV-87 
MCH-27.7 MCHC-31.7* RDW-14.9 RDWSD-47.6* Plt ___
___ 06:25AM BLOOD Glucose-75 UreaN-16 Creat-0.8 Na-144 
K-4.0 Cl-109* HCO3-24 AnGap-15
___ 06:25AM BLOOD Calcium-9.9 Phos-3.3 Mg-2.3

============
MICROBIOLOGY
============
__________________________________________________________
___ 3:00 pm BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 10:42 am SEROLOGY/BLOOD      65097M. 

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
__________________________________________________________
___ 10:55 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

===============
IMAGING/STUDIES
===============
CT HEAD W/O CONTRAST (___):
FINDINGS:  
There are bilateral crescentic cerebral convexity extra-axial 
collections.  On the right, the collection is isodense, 
measuring up to 13 mm in diameter, with a more hyperdense 
components measuring up to 11 mm.  The extra-axial collection on 
the left is more hypodense in attenuation and is likely in 
chronic.  The ventricles and sulci are normal in size and 
configuration.  No evidence of acute infarction or edema. 
  
There is no evidence of fracture.  A mucous retention cyst is 
seen in the right maxillary sinus.  Minimal mucosal thickening 
is seen of the left maxillary sinus.  Middle ear cavities and 
mastoid air cells are clear.  The visualized portion of the 
orbits are unremarkable. 
  
IMPRESSION: 
1. Right convexity subacute subdural hematoma with a hyperdense 
acute 
component.  Left-sided chronic subdural hematoma versus a 
subdural hygroma.  Comparison with prior would be helpful to 
evaluate for changes. 

CT HEAD W/O CONTRAST (___):
FINDINGS:  
Again seen are bilateral crescentic cerebral convexity subdural 
collections, not significantly changed since the recent 
examination.  The collection on the right is isodense, measuring 
up to 14 mm with a more hyperdense component, measuring up to 11 
mm.  The hypodense extra-axial collection on the left measures 
up to ___nd is likely chronic in nature.  The 
ventricles and sulci are unremarkable.  There is no evidence of 
acute large territorial 
infarction or edema. 
  
There is no evidence of fracture.  Again seen is a mucous 
retention cyst in the right maxillary sinus.  Minimal mucosal 
thickening is seen the left maxillary sinus.  The middle ear 
cavities and mastoid air cells are clear.  The visualized 
portion of the orbits are unremarkable. 
  
IMPRESSION:  
1. Unchanged bilateral subdural collections as described above 

CHEST (PORTABLE AP) (___):
IMPRESSION:  
No previous images.  The cardiac silhouette is within normal 
limits and there is no evidence of vascular congestion or 
pleural effusion. 
There is mild asymmetry in opacification at the bases, more 
prominent on the left.  Although this could merely represent 
atelectasis, in the appropriate clinical setting, superimposed 
pneumonia could be considered. 

 
Brief Hospital Course:
___ is a ___ y/o man with a PMH of ___ disease, 
dementia, hypertension, and hypothyroidism who presented from 
his neurologist's office after a routine MRI demonstrated acute 
subdural hematoma. 
,
# Acute hypoactive delirium on chronic dementia. According to 
his daughter, he has reportedly been having fluctuating mental 
status since ___, which has seemed to be consistent with 
worsening dementia. He became acutely agitated, for which he was 
given IM olanzapine 5 mg x2, after which he was considerably 
somnolent upon his transfer to the floor. Anti-psychotics were 
held, and his mental status cleared. His clinical syndrome was 
thought to be consistent with possible ___ body dementia, with 
a superimposed acute hypoactive delirium in the setting of 
receiving anti-psychotics. Infectious work-up was negative and 
electrolytes were within normal limits. Continued on home 
Sinemet, entacapone, ropinrole, and donepezil. 
.
# Acute on chronic subdural hematoma.  Etiology of hematoma 
unclear. He has been living at home under constant supervision 
and has had no falls or history of bleeding. He was evaluated in 
the ___ ED with serial head CT, which demonstrated no interval 
changes in his SDH, with no acute neurosurgical intervention 
required and plan for four week follow-up.
.
# Hypertension. Lisinopril initially held for hypotension; 
restarted upon discharge. # GERD. Continued home famotidine.
# Hypothyroidism. Continued home levothyroxine. 
# ___ disease. Please see above. Continued on home 
Sinemet, entacapone, ropinrole.

===================
TRANSITIONAL ISSUES
===================
# Medication changes. None.
# Subdural hematoma. Unclear etiology given close family 
observation and no report of falls. Please evaluate for clear 
etiology. Will require neurosurgery follow-up in four weeks for 
repeat imaging. Please call ___ to set up appointment.
# ___ body dementia. Should not receive 
anti-psychotics in the future given severe hypoactive delirium 
following administration.
# Code status: FULL
# Contact: Daughter, ___, ___, granddaughter ___ 
___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Megestrol Acetate 40 mg PO BID 
2. Vitamin E 1000 UNIT PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Ropinirole 6 mg PO QAM 
5. Multivitamins 1 TAB PO DAILY 
6. Melatin (melatonin) 3 mg oral QHS 
7. Lisinopril 5 mg PO DAILY 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. Gabapentin 100 mg PO BID 
10. Famotidine 40 mg PO DAILY 
11. Entacapone 200 mg PO BID 
12. Donepezil 10 mg PO DAILY 
13. Docusate Sodium 100 mg PO BID 
14. Carbidopa-Levodopa CR (50-200) 1 TAB PO TID 
15. Carbidopa-Levodopa (___) 1 TAB PO TID 

 
Discharge Medications:
1. Carbidopa-Levodopa (___) 1 TAB PO TID 
2. Carbidopa-Levodopa CR (50-200) 1 TAB PO TID 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Donepezil 10 mg PO DAILY 
6. Entacapone 200 mg PO BID 
7. Famotidine 40 mg PO DAILY 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Ropinirole 6 mg PO QAM 
11. Vitamin E 1000 UNIT PO DAILY 
12. Gabapentin 100 mg PO BID 
13. Lisinopril 5 mg PO DAILY 
14. Megestrol Acetate 40 mg PO BID 
15. Melatin (melatonin) 3 mg oral QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
================= 
PRIMARY DIAGNOSES 
================= 
- acute toxic, metabolic encephalopathy 
- acute on chronic subdural hematoma 
- ___ disease 
- dementia, possibly ___ body 
 
=================== 
SECONDARY DIAGNOSES 
=================== 
- gastroesophageal reflux disease 
- hypothyroidism 
- hypertension 
- vitamin B12 deficiency 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. You were referred to us because you had a bleed 
in your brain. We scanned your head in the emergency room, and 
this was found to be stable. You will need to follow-up with our 
neurosurgeons in four weeks with another scan to make sure that 
this remains stable.

You subsequently became confused. We think that this is because 
of the medications that you received in the ED. Because of your 
___ disease and your dementia, you are extremely 
sensitive to medications called "anti-psychotics." You should 
not take these medications in the future unless a neurologist or 
psychiatrist tells you to.

Please continue to take all medications as prescribed.  We wish 
you the very best!

Warmly,

Your ___ Team
 
Followup Instructions:
___